US08455477B2
To a solution of 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (25.0 mg, 0.098 mmol), 7-(tert-butoxycarbonyl)-7-aza-2-azoniaspiro[3.5]nonane chloride (39.0 mg, 0.15 mmol), and triethylamine (0.054 mL, 0.39 mmol) in 1,2-dichloroethane (2 ml) was added sodium triacetoxyborohydride (41.0 mg, 0.20 mmol). After 2 h, the reaction was quenched with saturated aqueous sodium hydrogen carbonate, diluted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to give tert-butyl 2-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]methyl}-2,7-diazaspiro[3.5]nonane-7-carboxylate. LRMS (ESI) calculated for C25H35N6O3 [M+H]+, 467.3; found 467.1.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.098 mmol, 25.0 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C=O | C13H12N4O2
reactant | 7-(tert-butoxycarbonyl)-7-aza-2-azoniaspiro[3.5]nonane chloride | 0.15 mmol, 39.0 mg | [Cl-].C(C)(C)(C)OC(=O)N1CCC2(C[NH2+]C2)CC1
reactant | triethylamine | 0.39 mmol, 0.054 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.20 mmol, 41.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | tert-butyl 2-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]methyl}-2,7-diazaspiro[3.5]nonane-7-carboxylate | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2CN2CC1(C2)CCN(CC1)C(=O)OC(C)(C)C | C25H34N6O3
